US04665073
2-Chloroacrylonitrile (35 ml.) was added in portions over 15 minutes to a solution of chloroacetamidine hydrochloride (55 g.) and triethylamine (120 ml.) in EtOH (250 ml.) cooled to 10°. The temperature was allowed to rise to 40° over 1 hour. The mixture was cooled and filtered and the resulting solution evaporated in vacuo. The residue was taken up in EtOAc (600 ml.) from which a tar precipitated. The solution was treated with decolourising carbon, filtered and evaporated to give 4-amino-2-chloromethylpyridine as a brown solid.

reactant | 2-Chloroacrylonitrile | 35 ml | ClC(C#N)=C | C3H2ClN
reactant | chloroacetamidine hydrochloride | 55 g | Cl.ClCC(=N)N
reactant | triethylamine | 120 ml | C(C)N(CC)CC | C6H15N
solvent | EtOH | 250 ml | CCO | C2H6O
product | 4-amino-2-chloromethylpyridine | NC1=CC(=NC=C1)CCl | C6H7ClN2
